US09211280B2
Preparation of (E)-2-Bromo-N′-methyl-N′-propionyl-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzohydrazide (F11)
To a stirred solution of (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl) but-1-enyl)benzoic acid (200 mg, 0.41 mmol) in 1,2-dichloroethane (DCE) (10 mL) was added N-methylpropionohydrazide (WO 2009110510) (50 mg, 0.49 mmol), DMAP (55 mg, 0.45 mmol), EDC.HCl (60 mg, 0.41 mmol) and DIPEA (0.20 mL, 1.1 mmol). The reaction mixture was stirred at 25° C. for 12 h, diluted with water and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh) eluting with 30% EtOAc in hexane afforded the title compound as an off white solid (86 mg, 34%).

reactant | (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl) but-1-enyl)benzoic acid | 0.41 mmol, 200 mg | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9BrCl3F3O2
reactant | N-methylpropionohydrazide | 0.49 mmol, 50 mg | CN(N)C(CC)=O | C4H10N2O
reactant | EDC.HCl | 0.41 mmol, 60 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 1.1 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 0.45 mmol, 55 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | (E)-2-Bromo-N′-methyl-N′-propionyl-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzohydrazide | BrC1=C(C(=O)NN(C(CC)=O)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H17BrCl3F3N2O2
